US06211215B1
In substantially the same manner as in Working Example 48, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(2-naphthyl)-oxazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-naphthyl)oxazole. The yield was 77%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 131-132° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(2-naphthyl)-oxazole | ClCC=1N=C(OC1)C1=CC2=CC=CC=C2C=C1 | C14H10ClNO
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-naphthyl)oxazole | yield was 77% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)C2=CC3=CC=CC=C3C=C2)C=C1 | C26H23N3O2
